US05151548
26.4 g (99 millimoles) of 2-chloro-3-cyclohexylbenzyl acetate are added dropwise to a mixture of 150 ml of ethanol and 8.4 g (150 millimoles) of potassium hydroxide. After 6 hours at 50° C., the mixture is evaporated down under reduced pressure, water is added to the residue and the mixture is extracted with dichloromethane. After the organic phase has been worked up by a conventional method, it is subjected to fractional distillation under reduced pressure. 17.4 g (78%) of 2-chloro-3-cyclohexylbenzyl alcohol of boiling point 133°-135° C./0.5 mbar and nD20 =1.5593 are obtained.

reactant | 2-chloro-3-cyclohexylbenzyl acetate | 99 millimoles, 26.4 g | C(C)(=O)OCC1=C(C(=CC=C1)C1CCCCC1)Cl | C15H19ClO2
reactant | potassium hydroxide | 150 millimoles, 8.4 g | [OH-].[K+]
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 2-chloro-3-cyclohexylbenzyl alcohol | 17.4 g, 78% | ClC1=C(CO)C=CC=C1C1CCCCC1 | C13H17ClO
